US08383635B2
N-(3-{[5-cyano-6-methyl-2-(methylthio)-4-pyrimidinyl]amino}phenyl)-1-pyrrolidinecarboxamide
The compound was prepared from 4-chloro-6-methyl-2-(methylthio)-5-pyrimidinecarbonitrile and N-(3-aminophenyl)-1-pyrrolidinecarboxamide following a procedure similar to that described for Intermediate 23.

reactant | 4-chloro-6-methyl-2-(methylthio)-5-pyrimidinecarbonitrile | ClC1=NC(=NC(=C1C#N)C)SC | C7H6ClN3S
reactant | N-(3-aminophenyl)-1-pyrrolidinecarboxamide | NC=1C=C(C=CC1)NC(=O)N1CCCC1 | C11H15N3O
product | N-(3-{[5-cyano-6-methyl-2-(methylthio)-4-pyrimidinyl]amino}phenyl)-1-pyrrolidinecarboxamide | C(#N)C=1C(=NC(=NC1C)SC)NC=1C=C(C=CC1)NC(=O)N1CCCC1 | C18H20N6OS
